US08461134B2
N-(3-bromo-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide (200 mg) was dissolved in 7N NH3 in methanol and stirred at rt overnight. Evaporated to remove the solvent and purified by prep-HPLC to give 4-amino-2-bromo-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide (110 mg). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 10.06 (s, 1H), 9.10 (brs, 1H), 7.65 (d, J=8.8 Hz, 1H), 7.44 (d, J=2.0 Hz, 1H), 7.21 (d, J=8.4 Hz, 1H), 7.17 (dd, J=2.0, 8.4 Hz, 1H), 6.79 (d, J=2.0 Hz, 1H), 6.48 (dd, J=2.0, 8.4 Hz, 1H), 4.84 (s, 2H). MS (ESI) m/z=381 (M−1).

reactant | N-(3-bromo-4-(N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)sulfamoyl)phenyl)-2,2,2-trifluoroacetamide | 200 mg | BrC=1C=C(C=CC1S(NC=1C=CC2=C(B(OC2)O)C1)(=O)=O)NC(C(F)(F)F)=O | C15H11BBrF3N2O5S
solvent | NH3 | 7N | N | H3N
solvent | methanol | CO | CH4O
product | 4-amino-2-bromo-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)benzenesulfonamide | 110 mg | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)Br | C13H12BBrN2O4S
